US04784471
7.4 ml of 1.7M n-butyllithium in hexane are added, with stirring and under an atmosphere of nitrogen, to a suspension of 5.4 g of n-butyltriphenylphosphonium bromide in 100 ml of ether. After 30 minutes the orange solution is cooled to -40° and 2.1 g of 4-(3-fluoro-4-cyanophenyl)-cyclohexanecarbaldehyde in 20 ml of ether are added. After stirring for 2 hours at -40°, 60 ml of ethanol are added dropwise. The reaction mixture is then allowed to warm up to room temperature, is stirred for one hour and worked up in the customary manner. 2-fluoro-4-[trans-4-(trans-1-pentenyl)-cyclohexyl]-benzonitrile is obtained after isomerisation in the customary manner analogously to European Published Application No. 0,122,389.

reactant | n-butyllithium | 1.7M, 7.4 ml | C(CCC)[Li]
reactant | 4-(3-fluoro-4-cyanophenyl)-cyclohexanecarbaldehyde | 2.1 g | FC=1C=C(C=CC1C#N)C1CCC(CC1)C=O | C14H14FNO
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
catalyst | n-butyltriphenylphosphonium bromide | 5.4 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-fluoro-4-[trans-4-(trans-1-pentenyl)-cyclohexyl]-benzonitrile | FC1=C(C#N)C=CC(=C1)[C@@H]1CC[C@H](CC1)\C=C\CCC | C18H22FN
